US07932272B2
6-Acetyl-2-amino-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide
To a mixture of 2-amino-6 (1-ethoxy vinyl)-N-(5-phenoxy-thiophene-2-ylmethyl)-nicotinamide described in Preparation Example A+-14 (2.0 mg, 0.0051 mmol) and acetone (2 mL) were added water (1 mL) and concentrated sulfuric acid (0.2 mL), and the solution was stirred at room temperature for 3 hours. The reaction solution was neutralized with an aqueous solution of saturated sodium bicarbonate, and ethyl acetate was added for extraction. The organic layer was washed with brine, the solvent was then evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1), and the title compound (1.0 mg, 0.0027 mmol, 53%) was obtained as a white solid.

reactant | 2-amino-6 (1-ethoxy vinyl)-N-(5-phenoxy-thiophene-2-ylmethyl)-nicotinamide | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)C(=C)OCC | C21H21N3O3S
reactant | acetone | 2 mL | CC(=O)C | C3H6O
reactant | sulfuric acid | 0.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 1 mL | O | H2O
product | 6-Acetyl-2-amino-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 0.0027 mmol, 1.0 mg, 53% | C(C)(=O)C1=NC(=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=C1)N | C19H17N3O3S
